US08685958B2
(3-(4-(2-oxa-5-azaspiro[3.4]octan-5-ylmethyl)phenoxy)azetidin-1-yl)(5-phenyl-1,3,4-oxadiazol-2-yl)methanone
2-Oxa-5-azaspiro[3.4]octane TFA salt (0.16 g, 67%, 0.47 mmol) was dissolved in dichloromethane (3 ml). Triethyl amine (0.119 ml, 0.86 mmol) was added, followed by 4-(1-(5-phenyl-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde (0.15 g, 0.43 mmol) and finally sodium triacetoxyhydroborate (0.182 g, 0.86 mmol). The mixture was stirred at ambient temperature overnight. The reaction mixture was then diluted with dichloromethane (10 ml) was added and shaken with NaHCO3 (sat. 3 ml). The two phases were separated by the use of a phase separator. Evaporation of the organic phase afforded a colourless residue, which was purified by preparative reverse-phase HPLC at pH 10 to give 0.140 g (73%) of the desired product as a solid. 1H NMR (600 MHz, DMSO) δ 1.62 (dt, 2H), 2.09-2.15 (m, 2H), 2.47-2.5 (m, 2H), 3.90 (d, 2H), 4.08-4.14 (m, 1H), 4.43 (d, 2H), 4.54-4.59 (min, 1H), 4.64 (ddd, 1H), 4.80 (d, 2H), 5.09-5.13 (m, 1H), 5.16 (ddd, 1H), 6.87 (d, 2H), 7.30 (d, 2H), 7.64-7.74 (m, 3H), 8.07-8.13 (m, 2H). MS (APCI+) m/z 447.2 [M+H]+, LC purity: 94%.

reactant | 2-Oxa-5-azaspiro[3.4]octane TFA salt | 0.47 mmol, 0.16 g | OC(=O)C(F)(F)F.C1OCC12NCCC2
reactant | Triethyl amine | 0.86 mmol, 0.119 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(1-(5-phenyl-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde | 0.43 mmol, 0.15 g | C1(=CC=CC=C1)C1=NN=C(O1)C(=O)N1CC(C1)OC1=CC=C(C=O)C=C1 | C19H15N3O4
reactant | sodium | [Na] | Na
reactant | NaHCO3 | 3 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (3-(4-(2-oxa-5-azaspiro[3.4]octan-5-ylmethyl)phenoxy)azetidin-1-yl)(5-phenyl-1,3,4-oxadiazol-2-yl)methanone | 0.140 g, 73% | C1OCC12N(CCC2)CC2=CC=C(OC1CN(C1)C(=O)C=1OC(=NN1)C1=CC=CC=C1)C=C2 | C25H26N4O4
